US08865744B1
300 mg (3.29 mmol) of thiosemicarbazide and 370 mg (3.27 mmol) of 2-Cyano-2-methylpropanoic acid are dissolved in dioxane (10.0 mL) and heated to 90° C. 300 μL (3.29 mmol) of POCl3 are added dropwise. The reaction is stirred at 90° C. for 1 h, cooled to RT and diluted with 1 N aq. HCl and DCM. The aq. layer is separated, 4 N aq. NaOH is added to reach pH 8 and then extracted with DCM. Then combined organic layer is washed with brine and dried. The solvent is removed under reduced pressure to afford 180 mg of 2-(5-amino[1,3,4]thiadiazol-2-yl)-2-methyl-propionitrile. Yield: 32%; ESI-MS: 169 [M+H]+; HPLC (Rt): 0.24 min (method B)

reactant | thiosemicarbazide | 3.29 mmol, 300 mg | NNC(=S)N | CH5N3S
reactant | 2-Cyano-2-methylpropanoic acid | 3.27 mmol, 370 mg | C(#N)C(C(=O)O)(C)C | C5H7NO2
reactant | POCl3 | 3.29 mmol, 300 μL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 1 N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(5-amino[1,3,4]thiadiazol-2-yl)-2-methyl-propionitrile | 180 mg, Yield: 32% | NC1=NN=C(S1)C(C#N)(C)C | C6H8N4S
